US05763487
Preparation of α-hydroxy-4-(5,6,7,8-tetrahydro-5,5,8,8-tetra-methyl-2-naphthyloxy)cinnamic acid:
1.6 g of (4 mmol) of α-acetamido-4-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyloxy)cinnamic acid, 25 ml of concentrated hydrochloric acid and 25 ml of ethyl alcohol were introduced into a round-bottomed flask and the mixture was heated at reflux for eight hours. The reaction medium was poured into water and extracted with ethyl acetate, and the organic phase was decanted, washed with water, dried over magnesium sulfate and evaporated. The residue obtained was triturated in a mixture of hexane and ethyl ether (80:20) and the mixture was filtered. 1.06 g (72%) of the expected acid was recovered, having a melting point of 207°-10° C.

reactant | α-acetamido-4-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyloxy)cinnamic acid | 4 mmol, 1.6 g | C(C)(=O)NC(C(=O)O)=CC1=CC=C(C=C1)OC1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C25H29NO4
reactant | hydrochloric acid | 25 ml | Cl | ClH
reactant | ethyl alcohol | 25 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | α-hydroxy-4-(5,6,7,8-tetrahydro-5,5,8,8-tetra-methyl-2-naphthyloxy)cinnamic acid | OC(C(=O)O)=CC1=CC=C(C=C1)OC1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C23H26O4
